US04994545
To a solution of 5.0 g (15 mmol) of 4-(4'nitrophenyl)-2,6-di-tert-butylphenol in 50 mL of toluene was added a solution of 9.2 g (69 mmol) of aluminum chloride in 10 mL of nitromethane. This mixture was stirred at ambient temperature for 4 hours and poured into 100 mL of 1N HC1 mixed with ice. The resulting aqueous mixture was extracted with two 100-mL portions of ethyl acetate. Combination, drying (MgSO4), and concentration of the organic layers resulted in crystallization of 2.3 g (69% yield) of yellow 4-(4'-nitrophenyl)phenol, which may also be named as 4'-nitro-(1,1'-biphenyl)-4-ol: 1H NMR (DMSO-d6) 6.93 (d, 2H, J=9Hz), 7.64 (d, 2H, J=9Hz), 7.82 (d, 2H, J=9Hz), 8.25 (d, 2H, J=9Hz), 9.98 (broad s, 1H).

reactant | 4-(4'nitrophenyl)-2,6-di-tert-butylphenol | 15 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C20H25NO3
reactant | aluminum chloride | 69 mmol, 9.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | nitromethane | 10 mL | [N+](=O)([O-])C | CH3NO2
product | 4-(4'-nitrophenyl)phenol | 2.3 g, 69% yield | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9NO3
